Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Minoxidil
 
Attending: ___.
 
Chief Complaint:
Right sided flank pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o. male ___ CRT and pancreas transplant ___ p/w right 
sided cack pain not radiating with movement. Finishing course of 
Cipro for UTI (2 wk course). Non papable back, flank pain. No 
graft tenderness. 
 
Past Medical History:
1. Diabetes Mellitus, Type I - since age ___
2. ESRD ___ CRT ___ - post-op course complicated by delayed 
graft function and hydronephrosis ___ ureteral stent and 
percutaneous nephrostomy in ___.  Now with renal insufficiency 
with baseline creatinine 2.0.
3. Pancreas transplant ___, rejected ___
4. h/o Partial SBO - treated conservatively
5. Hypertension
6. Coronary Artery Disease ___ stent of Ramus Intermedius in 
___
7. Paroxysmal Atrial Fibrillation
8. ___ ventral hernia repair with mesh in ___
9. Orthostatic hypotension
___ malleolar fracture ___ - treated with Keflex and 
Vicodin. Ortho evaluation ___ - no infection, no ulcer.
.

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
97  54  184/85  16  100% RA 
A&O
chest clear
RRR
abd soft,non-tender, non-distended, ventral hernia, graft site 
non-tender, no erythema
MAE ___
 
Pertinent Results:
___ 03:00PM BLOOD WBC-8.5 RBC-3.79* Hgb-11.3* Hct-32.8* 
MCV-87 MCH-29.8 MCHC-34.4 RDW-14.5 Plt ___
___ 05:00AM BLOOD WBC-7.9 RBC-3.45* Hgb-10.1* Hct-29.9* 
MCV-87 MCH-29.2 MCHC-33.7 RDW-14.6 Plt ___
___ 03:00PM BLOOD Glucose-113* UreaN-51* Creat-2.5* Na-136 
K-4.8 Cl-103 HCO3-22 AnGap-16
___ 05:00AM BLOOD Glucose-124* UreaN-50* Creat-2.6* Na-140 
K-4.3 Cl-105 HCO3-24 AnGap-15
___ 05:00AM BLOOD Cyclspr-208
 
Brief Hospital Course:
He was admitted to the Transplant Service and started on IV 
hydration. Transplant Nephrology was consulted and was involved 
with his plan. A CT of the abd/pelvis was done showing a 3mm 
non-obstructing calculus of the left lower quadrant transplant 
kidney, similar to CT ___. A 4.5 cm adrenal mass, for which 
MRI was recommended. A 3mm left lung base nodule/ CT chest was 
recommended for further evaluation. Severe vascular 
calcifications were noted. MRI and Chest CT were deferred. A 
renal transplant US demonstrated no hydronephrosis, a fluid 
structure adjacent to 
the transplant kidney corresponded to an extrarenal pelvis. 
Resistive indices were elevated as on prior exam with increased 
parenchymal echogenicity compatible with medical renal disease. 
UA was negative except for + protein.

Urine was filtered without stone retrieval. Given that pain had 
resolved and urine ouptut was appropriate with slightly elevated 
creatinine (2.5-2.6 from baseline of 2.0), he was discharge home 
on ___ to complete a 24 hour urine to do stone analysis. He was 
instructed to strain all urine. Meds remained the same with the 
exception of bactrim which was switched from DS 3x/week to 
single strength ___. 

Vital signs were stable. He was tolerating a regular diet and 
was ambulatory. Pain had resolved. 

He was scheduled to f/u with Dr. ___ on ___. A vicodin 
script for 10 tabs was provided with instructions to take if 
flank pain reccured. He was instructed to call the Transplant 
office immediately if pain recurred. 

 
Medications on Admission:
cellcept 1 gram bid, neoral 100mg bid, cinacalcet, cipro, 
bactrim, lasix, humalog, lantus, lisinopril, protonix, 
metoprolol, florinef, prednisone 5mg ___, catapres patch
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
3. Clonidine 0.2 mg/24 hr Patch Weekly Sig: One (1) Patch Weekly 
Transdermal QTUES (every ___.  
4. Mycophenolate Mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
5. Cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).  
7. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. Cyclosporine Modified 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
9. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Pravastatin 20 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).  
12. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) as needed for nausea: as needed.  
14. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
15. Insulin Glargine 100 unit/mL Solution Sig: Ten (10) units 
Subcutaneous at bedtime.  
16. Insulin Lispro 100 unit/mL Solution Sig: follow sliding 
scale  Subcutaneous four times a day.  
17. Lasix 20 mg Tablet Sig: One (1) Tablet PO twice a day.  
18. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
19. Vicodin ___ mg Tablet Sig: ___ Tablets PO prn: every 4 
hours : if need for pain from kidney stone.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
nephrolithiasis
h/o kidney and pancreas transplant
DM type I controlled

 
Discharge Condition:
stable

 
Discharge Instructions:
Please call the Transplant office ___ if fever, chills, 
nausea, vomiting, increased pain, bloody urine
Drink at least 2.5-3 liters of fluid a day
Save urine for 24 hours and bring to transplant clinic for stone 
analysis
continue to strain urine and save any retreived stones
Bactrim has been changed to a single strength tab every day
 
Followup Instructions:
___